US08202858B2
4-(3,3-Dimethyl-butyl)-piperazine-1-carboxylic Acid tert-butyl Ester
To a solution of 1-boc-piperazine (8.19 g, 43.9 mmol) in methanol/acetic acid (99:1, v/v, 100 ml) was added 3,3-dimethylbutyraldehyde (4.0 g, 40.0 mmol) and the resulting mixture was stirred at room temperature for 1 h. Sodium cyanoborohydride (3.27 g, 51.9 mmol) was added, and the resulting mixture was stirred at room temperature for 18 h then concentrated in vacuo. The residue was dissolved in EtOAc and the resulting solution was washed with saturated NaHCO3, water and brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 5% methanol:95% EtOAc) to yield the title compound (9.1 g, 84%).

reactant | 1-boc-piperazine | 43.9 mmol, 8.19 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 3,3-dimethylbutyraldehyde | 40.0 mmol, 4.0 g | CC(CC=O)(C)C | C6H12O
reactant | Sodium cyanoborohydride | 51.9 mmol, 3.27 g | C(#N)[BH3-].[Na+]
solvent | methanol acetic acid | 100 ml | CO.C(C)(=O)O
product | 4-(3,3-Dimethyl-butyl)-piperazine-1-carboxylic Acid tert-butyl Ester | 9.1 g, 84% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC(C)(C)C | C15H30N2O2
